US04612321
In 40 ml of acetonitrile was dissolved 1.12 g of benzyloxycarbonylaminothioacetamide. In the solution was suspended 2.0 g of 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide. To the suspension was added while stirring 0.8 ml of triethylamine. The mixture was stirred for 2 hours under reflux. The resultant was left standing for cooling, then the solvent was evaporated off. To the residue was added a saturated aqueous solution of sodium hydrogen carbonate. The mixture was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried and, then, the solvent was evaporated off. The residue was recrystallized from ethyl acetate-isopropylether to give 1.3 g (yield 56%) of 2-(benzyloxycarbonylaminomethyl)-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole, m.p. 93°-94° C.

reactant | benzyloxycarbonylaminothioacetamide | 1.12 g | C(C1=CC=CC=C1)OC(=O)NCC(=S)N | C10H12N2O2S
reactant | 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide | 2.0 g | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-(benzyloxycarbonylaminomethyl)-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole | 1.3 g, yield 56% | C(C1=CC=CC=C1)OC(=O)NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | C24H21N3O3S
